US05922871
4-(3-Hydroxypropyl)-1-[4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine
1-[4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine (0.5 g) was dissolved in anhydrous ethanol (25 ml) and then, triethylamine (0.3 ml) and 3-bromo-1-propanol (0.5 g) were added. The solution was heated to reflux for 12 hours. The solvent was concentrated under reduced pressure and then, the residue was dissolved in chloroform (50 ml), and the solution was washed with water twice. Water (40 ml), methanol (5 ml) and aqueous 10% sodium hydroxide (10 ml) were added to chloroform solution and the mixture was stirred for 1 hour. The separated organic layers were washed with water and the solvent was concentrated under reduced pressure. The concentrated residue was crystallized by treatment with ether, and further recrystallized using ethyl acetate and ether, filtered and dried to give 0.44 g (yield: 78%) of the desired compound as white crystal.

reactant | 1-[4-[1-[3-(Isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine | 0.5 g | C(C)(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=CC=C(C(=O)N2CCNCC2)C=C1 | C24H32N6O2
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromo-1-propanol | 0.5 g | BrCCCO | C3H7BrO
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 4-(3-Hydroxypropyl)-1-[4-[1-[3-(isopropylamino)-2-pyridyl]piperazin-4-yl-carbonyl]benzoyl]piperazine | 0.44 g, yield: 78% | OCCCN1CCN(CC1)C(C1=CC=C(C=C1)C(=O)N1CCN(CC1)C1=NC=CC=C1NC(C)C)=O | C27H38N6O3
